* C:\Users\jeann\OneDrive\Documents\ELN\Wild Penguins\eln1-project-2020-wild-penguins\Simu_probe.asc
R1 VIN V0 10k
Rpr V0 0 459k
Cpr V0 0 72.59pF
R2 VIN V1 10k
Rpr1 V1 0 15930
Cpr1 V1 0 1.223nF
R3 VIN V2 10k
Rpr2 V2 0 7066
Cpr2 V2 0 1.714nF
R4 VIN V3 10k
Rpr3 V3 0 4239
Cpr3 V3 0 3.991nF
V5 VIN 0 PULSE(-0.5 0.5 0 0.1u 0.1u 100u 200u)
R5 VIN V4 10k
Rpr4 V4 0 565
Cpr4 V4 0 17.5nF
.tran 1ms
* .step param R list .516k .11.8k .6.35k .3.25k .500
* .step param C list .65.7pF .545pF .591pF .1.66nF .4.9nF
* 4
* 3
* 2
* 1
.backanno
.end
